US04386031
(b) 9 -[4-Chloro-N-(4-methoxyphenyl)-benzamido]-pelargonic acid methyl ester
As described in example 3(b) the reaction is carried out with 2 g. (6.8 mmol) of 9-(4-methoxyphenylamino)-pelargonic acid methyl ester, 0.75 g (7.5 mmol) of triethylamine, 1.2 g (6.8 mmol) of 4-chlorobenzoic acid chloride and 80 cc. of ether. The crude product is used in the next reaction step without further purification.

reactant | 9-(4-methoxyphenylamino)-pelargonic acid methyl ester | 6.8 mmol | COC(CCCCCCCCNC1=CC=C(C=C1)OC)=O | C17H27NO3
reactant | triethylamine | 7.5 mmol, 0.75 g | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzoic acid chloride | 6.8 mmol, 1.2 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | ether | CCOCC | C4H10O
product | 9 -[4-Chloro-N-(4-methoxyphenyl)-benzamido]-pelargonic acid methyl ester | COC(CCCCCCCCN(C(C1=CC=C(C=C1)Cl)=O)C1=CC=C(C=C1)OC)=O | C24H30ClNO4
